US04377586
2-(4-chlorophenyl)-6-(4-iodophenyl)-4-pyridinecarboxylic acid (Formula III: X21 is chloro, X31 is iodo, X41, X50, R10, and R20 are hydrogen)
A mixture of 1.7 g (0.0042 mole) of p-iodophenacylpyridinium bromide, 0.88 g (0.0042 mole) of p-chlorobenzoylacrylic acid, 2.44 g of ammonium acetate, 5 ml of methanol, 4 ml of acetic acid, and 0.4 ml of acetic anhydride is stirred at reflux for 1.25 hr. 10 ml of methanol is added and the mixture is cooled and the solid is collected. The solid is recrystallized from methanol-acetic acid-water to yield 0.90 g (49%) of the titled crystals with a melting point of 286°-287° C. The C:H:N ratio is 49.67:2.68:3.24.

reactant | p-iodophenacylpyridinium bromide | 0.0042 mole, 1.7 g | [Br-].IC1=CC=[N+](C=C1)CC(=O)C1=CC=CC=C1
reactant | p-chlorobenzoylacrylic acid | 0.0042 mole, 0.88 g | ClC1=CC=C(C(=O)C(C(=O)O)=C)C=C1 | C10H7ClO3
reactant | ammonium acetate | 2.44 g | C(C)(=O)[O-].[NH4+]
reactant | acetic anhydride | 0.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 2-(4-chlorophenyl)-6-(4-iodophenyl)-4-pyridinecarboxylic acid | 0.90 g, 49% | ClC1=CC=C(C=C1)C1=NC(=CC(=C1)C(=O)O)C1=CC=C(C=C1)I | C18H11ClINO2
